US07700625B2
(2,4-Dihydroxy-5-isopropyl-phenyl)-{4-[2-(2-methoxy-ethoxy)-ethoxy]-1,3-dihydro-isoindol-2-yl}methanone
A solution of (2,4-bis-benzyloxy-5-isopropenyl-phenyl)-{4-[2-(2-methoxy-ethoxy)-ethoxy]-1,3-dihydro-isoindol-2-yl}-methanone in methanol (5 mL) was hydrogenated at atmospheric pressure over 10% palladium on charcoal (12 mg) for 3 hours. A further portion of catalyst (12 mg) was added and hydrogenation continued for a further 7 hours. The mixture was filtered through Celite, eluting with methanol, then the filtrate was concentrated in vacuo to give a residue which was purified by preparative HPLC (basic method). This afforded the title compound as a white solid (17 mg, 16% over two steps). 1H NMR (methanol-d4) 7.25 (1H, t), 7.17 (1H, s), 6.95-6.82 (2H, m), 6.37 (1H, s), 4.89 (2H, br.s), 4.83 (overlaps with H2O, br.s), 4.16 (2H, br.s), 3.82 (2H, br.s), 3.66 (2H, br.s), 3.52 (2H, br.s), 3.39-3.28 (overlaps with MeOH, m), 3.20 (1H, sept), 1.21 (6H, d). MS: [M+H]+ 416.

reactant | (2,4-bis-benzyloxy-5-isopropenyl-phenyl)-{4-[2-(2-methoxy-ethoxy)-ethoxy]-1,3-dihydro-isoindol-2-yl}-methanone | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(=C)C)C(=O)N1CC2=CC=CC(=C2C1)OCCOCCOC | C37H39NO6
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on charcoal | 12 mg | [Pd] | Pd
product | (2,4-Dihydroxy-5-isopropyl-phenyl)-{4-[2-(2-methoxy-ethoxy)-ethoxy]-1,3-dihydro-isoindol-2-yl}methanone | 17 mg, 16% | OC1=C(C=C(C(=C1)O)C(C)C)C(=O)N1CC2=CC=CC(=C2C1)OCCOCCOC | C23H29NO6
